US08686024B2
Synthesis of 1-benzylindolin-5-yl 3-trifluoromethylphenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) using the same procedure employed for Example 1 (2), but with 3-trifluoromethylphenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a sticky oil (1.2 mg, 4%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 3-trifluoromethylphenylisocyanate | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
product | 1-benzylindolin-5-yl 3-trifluoromethylphenylcarbamate | FC(C=1C=C(C=CC1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O)(F)F | C23H19F3N2O2
